US07393858B2
(iii) tert-Butyl 4-hydroxy-1-oxa-8-azaspiro[4.5]decane-8-carboxylate
tert-Butyl 4-(1,3-dihydroxypropyl)-4-hydroxypiperidine-1-carboxylate (from step (ii) above; 480 mg) was dissolved in dichloromethane and p-toluenesulfonyl chloride was added followed by triethylamine (0.49 mL) and the mixture was stirred for 12 h. An additional aliquot of triethylamine was added (0.49 mL) and the mixture stirred for 48 h. This mixture was concentrated in vacuo. The crude product was purified by chromatography on silica using 50-95% ethyl acetate in iso-hexane as eluant to afford the product (300 mg).

reactant | tert-Butyl 4-(1,3-dihydroxypropyl)-4-hydroxypiperidine-1-carboxylate | OC(CCO)C1(CCN(CC1)C(=O)OC(C)(C)C)O | C13H25NO5
reactant | p-toluenesulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | triethylamine | 0.49 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | tert-Butyl 4-hydroxy-1-oxa-8-azaspiro[4.5]decane-8-carboxylate | 300 mg | OC1CCOC12CCN(CC2)C(=O)OC(C)(C)C | C13H23NO4
